US07838543B2
2′,4′-Dichloro-biphenyl-4-carboxylic acid {2-[(2-dimethylamino-ethyl)-methyl-amino]-benzothiazol-6-yl}-amide
The title compound is prepared by following a procedure analogous to Example 113, Step 1, using N-{2-[(2-dimethylamino-ethyl)-methyl-amino]-benzothiazol-6-yl}-4-iodo-benzamide (0.15 g, 0.31 mmol) and 2,4-dichloro-phenyl boronic acid (0.072 g, 0.38 mmol) to give the title compound (0.067 g, 0.13 mmol, 43%). LC/MS, Retention time=5.15 min; (m/z): calcd for C25H24Cl2N4OS: 499.5; found: 499.0.

reactant | N-{2-[(2-dimethylamino-ethyl)-methyl-amino]-benzothiazol-6-yl}-4-iodo-benzamide | 0.31 mmol, 0.15 g | CN(CCN(C=1SC2=C(N1)C=CC(=C2)NC(C2=CC=C(C=C2)I)=O)C)C | C19H21IN4OS
reactant | 2,4-dichloro-phenyl boronic acid | 0.38 mmol, 0.072 g | ClC1=C(C=CC(=C1)Cl)B(O)O | C6H5BCl2O2
product | 2′,4′-Dichloro-biphenyl-4-carboxylic acid {2-[(2-dimethylamino-ethyl)-methyl-amino]-benzothiazol-6-yl}-amide | 0.13 mmol, 0.067 g, 43% | CN(CCN(C=1SC2=C(N1)C=CC(=C2)NC(=O)C2=CC=C(C=C2)C2=C(C=C(C=C2)Cl)Cl)C)C | C25H24Cl2N4OS
